US09340507B2
1-Cyclopentyl-5-(3-difluoromethyl-phenyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide
A solution of 1-cyclopentyl-5-(3-difluoromethyl-phenyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid (preparation 9, 116 mg, 0.334 mmol), HBTU (140 mg, 0.369 mmol), DIPEA (116 μL, 0.668 mmol) in DMF (1 mL) is stirred for 15 min at room temperature. C-(5-methyl-1,3,4-oxadiazol-2-yl)-methylamine (46 mg, 0.407 mmol) is added and the reaction mixture is stirred for 72 h at room temperature. The reaction mixture is purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.3% NH4OH, 60° C.). Yield: 67 mg (45% of theory); ESI mass spectrum: [M+H]+=443; Retention time HPLC: 0.98 min (Z003_001).

reactant | 1-cyclopentyl-5-(3-difluoromethyl-phenyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid | 0.334 mmol, 116 mg | C1(CCCC1)N1C=C(C(C(=C1C)C1=CC(=CC=C1)C(F)F)=O)C(=O)O | C19H19F2NO3
reactant | HBTU | 0.369 mmol, 140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.668 mmol, 116 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | C-(5-methyl-1,3,4-oxadiazol-2-yl)-methylamine | 0.407 mmol, 46 mg | CC1=NN=C(O1)CN | C4H7N3O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-Cyclopentyl-5-(3-difluoromethyl-phenyl)-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide | CC1=NN=C(O1)CNC(=O)C1=CN(C(=C(C1=O)C1=CC(=CC=C1)C(F)F)C)C1CCCC1 | C23H24F2N4O3
